US05547950
(S)-N-[[3-[3-fluoro-4-[4-[2-(1-piperidinyl)ethyl]-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide
A mixture of (S)-N-[[3-[3-fluoro-4-(1-piperazinyl)phenyl]-2-oxo-5oxazolidinyl]methyl]acetamide (0.200 g, 0.595 mmol), 1-(2-chloroethyl)piperidine monohydrochloride (0.131 g, 0.714 mmol) and potassium carbonate (0.493 g, 3.57 mmol) in acetonitrile (12 mL) was heated to reflux for 1.0 h. The reaction mixture was cooled to ambient temperature and concentrated in vacuo. The residue was triturated with dichloromethane, the solids filtered off, and the filtrate concentrated in vacuo to give the crude product (0.308 g). This crude material was chromatographed over silica gel (5 g), eluting with 5% and then 10% methanol/chloroform, to afford, after concentration of appropriate fractions, 0.192 g (72%) of the title compound as an off-white solid with mp 169°-170° C.

reactant | (S)-N-[[3-[3-fluoro-4-(1-piperazinyl)phenyl]-2-oxo-5oxazolidinyl]methyl]acetamide | 0.595 mmol, 0.200 g | FC=1C=C(C=CC1N1CCNCC1)N1C(O[C@H](C1)CNC(C)=O)=O | C16H21FN4O3
reactant | 1-(2-chloroethyl)piperidine monohydrochloride | 0.714 mmol, 0.131 g | Cl.ClCCN1CCCCC1
reactant | potassium carbonate | 3.57 mmol, 0.493 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 12 mL | C(C)#N | C2H3N
product | (S)-N-[[3-[3-fluoro-4-[4-[2-(1-piperidinyl)ethyl]-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 0.192 g, 72% | FC=1C=C(C=CC1N1CCN(CC1)CCN1CCCCC1)N1C(O[C@H](C1)CNC(C)=O)=O | C23H34FN5O3
